US04707499
methyl α-ethyl-α-2-propenylbenzeneacetate
To 15.4 ml of diisopropylamine in 400 ml of dry tetrahydrofuran at -20° to -30° under nitrogen atmosphere was added dropwise with stirring 64.3 ml of a 1.71 M solution of butyllithium in hexane. After stirring 15 min., the mixture was cooled to -70° and a solution of 17.8 g of methyl 2-phenylbutyrate in 100 ml of tetrahydrofuran was added dropwise. After stirring 30 min., a solution of 19.9 ml of allyl bromide in 50 ml tetrahydrofuran was added dropwise; the mixture was stirred and allowed to warm to room temperature overnight. After decomposing with methanol, the reaction mixture was concentrated in vacuo and the residue dissolved in diethyl ether. The ether solution was washed successively with dilute hydrochloric acid, water, dilute sodium bicarbonate, and saturated sodium chloride solution, then dried over anhydrous potassium carbonate and concentrated in vacuo. Distillation of the residue yielded 20.2 g of the title compound as a water-white oil, b.p. 84°-86°/0.45 mm, having the following elemental analysis:

reactant | diisopropylamine | 15.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | methyl 2-phenylbutyrate | 17.8 g | C1(=CC=CC=C1)C(C(=O)OC)CC | C11H14O2
reactant | allyl bromide | 19.9 ml | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | methyl α-ethyl-α-2-propenylbenzeneacetate | 20.2 g | C(C)C(C(=O)OC)(C1=CC=CC=C1)CC=C | C14H18O2
